US05665748
A toluene solution of diisobutylaluminum hydride (1.5M, 9.3 ml) was added dropwise at 0° C. to a suspension of ethyl (E)-4-[2-[5-methyl-2-(3-methylphenyl)-4-oxazolyl]ethoxy]cinnamate (2.48 g) in dichloromethane (50 ml). The mixture was stirred for 2 hours at room temperature, to which were then added, under ice-cooling, methanol (3 ml) and, then, water (30 ml). The mixture was subjected to filtration through a celite layer. The organic layer was washed with water, dried (MgSO4) and, then, concentrated. The concentrate was purified by means of a column chromatography. From the fractions eluted with ethyl acetate--hexane (1:1) was obtained (E)-3-[4-[2-[5-methyl-2-(3-methylphenyl)-4-oxazolyl]ethoxy]phenyl]-2-propen-1-ol (1.44 g, 65%). Recrystallization from dichloromethane--isopropyl ether gave colorless prisms, m.p.116°-117° C.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 1.5M, 9.3 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl (E)-4-[2-[5-methyl-2-(3-methylphenyl)-4-oxazolyl]ethoxy]cinnamate | 2.48 g | CC1=C(N=C(O1)C1=CC(=CC=C1)C)CCOC1=CC=C(/C=C/C(=O)OCC)C=C1 | C24H25NO4
reactant | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | (E)-3-[4-[2-[5-methyl-2-(3-methylphenyl)-4-oxazolyl]ethoxy]phenyl]-2-propen-1-ol | 1.44 g, 65% | CC1=C(N=C(O1)C1=CC(=CC=C1)C)CCOC1=CC=C(C=C1)/C=C/CO | C22H23NO3
